US06897224B2
5-Amino-2-ethoxyquinoline
860 mg (3.9 mmol) of 2-ethoxy-5-nitroquinoline is stirred in 25 ml of ethyl acetate in the presence of 235 mg of 10% Pd—C for 4.5 hours in a hydrogen atmosphere. The batch is filtered, and the filtrate is concentrated by evaporation: 720 mg of a light yellow oil.

reactant | 2-ethoxy-5-nitroquinoline | 3.9 mmol, 860 mg | C(C)OC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C11H10N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 235 mg | [Pd] | Pd
product | 5-Amino-2-ethoxyquinoline | NC1=C2C=CC(=NC2=CC=C1)OCC | C11H12N2O
